US08106070B2
Sodium hydride (60 wt % in mineral oil) (20 mg, 0.47 mmol) was added to a solution of benzyl {2-(4-bromophenyl)-1-[5-(2,2-dimethylbutyl)-1-methyl-1H-imidazol-2-yl]ethyl}carbamate (70 mg, 0.14 mmol) in tetrahydrofuran. After stirring at 0° C. for 10 min, methyl iodide (20 μL, 0.31 mmol) was added and the reaction allowed to warm to ambient temperature. The reaction mixture was quenched with water and extracted with ethyl acetate. The combined organic extracts were dried (magnesium sulfate) and concentrated in vacuo to afford benzyl {2-(4-bromophenyl)-1-[5-(2,2-dimethylbutyl)-1-methyl-1H-imidazol-2-yl]ethyl}methylcarbamate which was used in the subsequent step without further purification.

reactant | Sodium hydride | 0.47 mmol, 20 mg | [H-].[Na+]
reactant | benzyl {2-(4-bromophenyl)-1-[5-(2,2-dimethylbutyl)-1-methyl-1H-imidazol-2-yl]ethyl}carbamate | 0.14 mmol, 70 mg | BrC1=CC=C(C=C1)CC(C=1N(C(=CN1)CC(CC)(C)C)C)NC(OCC1=CC=CC=C1)=O | C26H32BrN3O2
reactant | methyl iodide | 0.31 mmol, 20 μL | CI | CH3I
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | benzyl {2-(4-bromophenyl)-1-[5-(2,2-dimethylbutyl)-1-methyl-1H-imidazol-2-yl]ethyl}methylcarbamate | BrC1=CC=C(C=C1)CC(C=1N(C(=CN1)CC(CC)(C)C)C)N(C(OCC1=CC=CC=C1)=O)C | C27H34BrN3O2
